US07795256B2
Sodium 3-cyano-1-(2,6-difluorophenyl)-6-oxo-1,6-dihydropyridine-2-thiolate
A solution of sodium bis(trimethylsilyl)amide (351 ml of a 1M solution in THF, 351 mmol) in THF (150 ml) was cooled to −78° C. and acetonitrile (30 ml) was added. After 20 min, 2,6-difluorophenyl isothiocyanate (30.0 g, 175.5 mmol) was added slowly over 5 min. The reaction mixture was allowed to warm slowly to r.t. over 2 h. EtOH (100 ml) was added followed by 1,3-dimethyluracil (27.0 g, 193.5 mmol) and the mixture heated to reflux for 18 h. After cooling, the mixture was concentrated in vacuo to a volume of approx. 150 ml and EtOH (75 ml) was added. This mixture was cooled and Et2O (approx. 750 ml) was added slowly to give a pale yellow precipitate. The solid was filtered off, washed with Et2O (2×100 ml) then dried to give the title compound as a yellow/pale brown solid (49.0 g, 86%). δH (DMSO-d6) 7.43-7.33 (1H, m), 7.23 (1H, d, J 9.2 Hz), 7.13-7.06 (2H, m), 5.64 (1H, d, J 9.2 Hz). LCMS (ES+) RT 7.0 minutes, 265 (M+H)+.

reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
reactant | 2,6-difluorophenyl isothiocyanate | 175.5 mmol, 30.0 g | FC1=C(C(=CC=C1)F)N=C=S | C7H3F2NS
reactant | 1,3-dimethyluracil | 193.5 mmol, 27.0 g | CN1C(=O)N(C(=O)C=C1)C | C6H8N2O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | EtOH | 100 ml | CCO | C2H6O
product | Sodium 3-cyano-1-(2,6-difluorophenyl)-6-oxo-1,6-dihydropyridine-2-thiolate | 49.0 g, 86% | C(#N)C1=C(N(C(C=C1)=O)C1=C(C=CC=C1F)F)[S-].[Na+] | InChI=1S/C12H6F2N2OS.Na/c13-8-2-1-3-9(14)11(8)16-10(17)5-4-7(6-15)12(16)18;/h1-5,18H;/q;+1/p-1
